US06677383B1
(E)-3,4,5-Trimethoxy-4′-methoxystilbene (DMU-212)
To a stirred mixture of 4-methoxybenzyltriphenylphosphonium chloride (6.4 g, 15.3 mmol) and 3,4,5-trimethoxybenzaldehyde (3 g, 15.3 mmol) in CH2Cl2 was added a cooled aqueous solution of NaOH (62.5 eq) in H2O. The mixture was stirred at room temperature for 48 hours. The organic phase was separated and the aqueous phase was washed with CH2Cl2. The organic phase was concentrated and the residue was recrystallised from ethanol to yield the title E-trans isomer. 1H NMR (CDCl3) δ 8.7 (1H, d:), 8.2 (4H, m), 8.0 (2H, s), 5.2 (6H, s), 5.0 (6H, s). Mass Spectrum (FAB) 301 (M+1).

reactant | 4-methoxybenzyltriphenylphosphonium chloride | 15.3 mmol, 6.4 g | [Cl-].COC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | 3,4,5-trimethoxybenzaldehyde | 15.3 mmol, 3 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | NaOH | 62.5 eq | [OH-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | (E)-3,4,5-Trimethoxy-4′-methoxystilbene | COC=1C=C(C=C(C1OC)OC)\C=C\C1=CC=C(C=C1)OC | C18H20O4
